### PR TITLE
feat(ErdosProblems): 838

### LINKED ISSUE #970: Erdős Problem 838
### What is the conjecture

https://www.erdosproblems.com/838

  Let $f(n)$ be maximal such that any $n$ points in $\mathbb{R}^2$, with no three on a line, determine at least $f(n)$ different convex subsets. Estimate $f(n)$ - in particular, does there exist a constant $c$ such that
$$\lim \frac{\log f(n)}{(\log n)^2}=c?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Kripner**
fixes  #970

### CODE REVIEW

File: FormalConjectures/ErdosProblems/838.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+
+/-!
+# Erdős Problem 838
+
+*Reference:* [erdosproblems.com/838](https://www.erdosproblems.com/838)
+-/
+
+namespace Erdos838
+
+abbrev Point : Type := EuclideanSpace ℝ (Fin 2)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean]: You can use the `ℝ\^2` notation (sorry, no unicode) instead once you have done `open scoped EuclideanGeometry`

File: FormalConjectures/ErdosProblems/838.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+
+/-
+A set of points is in general position if no three points are collinear.
+-/
+def GeneralPosition (S : Set Point) : Prop :=
+  ∀ s : Set Point, s ⊆ S → s.ncard = 3 → ¬ Collinear ℝ s
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean]: This should go in `ForMathlib` and be generalised to an arbitrary `AddTorsor`

File: FormalConjectures/ErdosProblems/838.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+position (`ConvexIndependent`).
+-/
+
+noncomputable def numberOfConvexSubsets (S : Set Point) (hS : S.Finite) : ℕ := by
+  classical
+  let s : Finset Point := hS.toFinset
+  exact
+    ((s.powerset).filter (fun A : Finset Point =>
+      ConvexIndependent ℝ (fun x : (A : Set Point) => (x : Point))
+    )).card
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean]:
```suggestion
noncomputable def numberOfConvexSubsets (S : Set Point) (hS : S.Finite) : ℕ :=
  {A \subset S | ConvexIndependent ℝ (fun x : (A : Set Point) => (x : Point))}.ncard
```

File: FormalConjectures/ErdosProblems/838.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+-/
+noncomputable def f (n : ℕ) : ℕ :=
+  sInf
+    { k : ℕ |
+      ∃ S : Set Point, ∃ hS : S.Finite,
+        S.ncard = n ∧ GeneralPosition S ∧
+        numberOfConvexSubsets S hS = k }
+
+/-
+There exists a constant c such that the limit of log(f(n)) / (log n)^2 is c.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean]: Can you latex this?

**Comment by mo271** [comment]
@Kripner are you still working on this?

**Comment by Kripner** [comment]
@YaelDillies thank you! It's much simpler with your changes. I moved `GeneralPosition` into `ForMathlib.Geometry.Euclidean`.

File: FormalConjecturesForMathlib/Geometry/Euclidean.lean [hunk 5]
```diff
@@ -15,5 +15,15 @@ limitations under the License.
...
 
 import Mathlib.Analysis.InnerProductSpace.PiL2
+import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
 
 scoped[EuclideanGeometry] notation "ℝ^" n:65 => EuclideanSpace ℝ (Fin n)
+
+/-
+A set of points is in general position if no three points are collinear.
+-/
+def GeneralPosition
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Geometry/Euclidean.lean:25]: It's good practice for non-adjective predicates to be prefixed with `Is`
```suggestion
def IsGeneralPosition
```

File: FormalConjecturesForMathlib/Geometry/Euclidean.lean [hunk 6]
```diff
@@ -15,5 +15,15 @@ limitations under the License.
 -/
 
 import Mathlib.Analysis.InnerProductSpace.PiL2
+import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
 
 scoped[EuclideanGeometry] notation "ℝ^" n:65 => EuclideanSpace ℝ (Fin n)
+
+/-
+A set of points is in general position if no three points are collinear.
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Geometry/Euclidean.lean:23]: That's only correct if the space is 3D. Can you generalise? cf https://en.wikipedia.org/wiki/General_position#General_linear_position

File: FormalConjectures/ErdosProblems/838.lean [hunk 7]
```diff
@@ -0,0 +1,62 @@
...
+# Erdős Problem 838
+
+*Reference:* [erdosproblems.com/838](https://www.erdosproblems.com/838)
+-/
+
+namespace Erdos838
+
+open scoped EuclideanGeometry
+
+abbrev Point : Type := ℝ^2
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean:30]: Can you please remove this? It's shorter to write `ℝ^2` than `Point`

File: FormalConjectures/ErdosProblems/838.lean [hunk 8]
```diff
@@ -0,0 +1,62 @@
...
+/-
+There exists a constant $c$ such that $\lim_{n \to \infty} \frac{\log f(n)}{(\log n)^2} = c$.
+-/
+@[category research open, AMS 52]
+theorem erdos_838 :
+    ∃ c : ℝ,
+      Filter.Tendsto
+        (fun n => Real.log (f n) / (Real.log n)^2)
+        Filter.atTop (nhds c) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/838.lean:60]: Can you also state the partial results?

**Comment by Smetalo** [comment]
Does this resolve #970?

**Comment by mo271** [comment]
@Kripner are you still working on this?

**Comment by mo271** [comment]
closing due to inactivity, feel free to reopen
